US05521173
6-(2-Thienyl)pyridine-3-carboxylic acid
A solution of 2.0 g of methyl 6-(2-thienyl)pyridine-3-carboxylate in 100 ml of methyl alcohol and 50 ml of 5N sodium hydroxide is stirred at room temperature for 16 hours under nitrogen. The reaction mixture is evaporated in vacuo to about one quarter of the volume and then diluted with 150 ml of cold water. The pH is adjusted to 4 with acetic acid and the desired white product collected, washed with 400 ml of cold water until neutral. The solid is washed with 50 ml of petroleum ether and dried under vacuum to 40° C. to give the desired product.

reactant | methyl 6-(2-thienyl)pyridine-3-carboxylate | 2.0 g | S1C(=CC=C1)C1=CC=C(C=N1)C(=O)OC | C11H9NO2S
solvent | methyl alcohol | 100 ml | CO | CH4O
solvent | sodium hydroxide | 5N, 50 ml | [OH-].[Na+]
product | 6-(2-Thienyl)pyridine-3-carboxylic acid | S1C(=CC=C1)C1=CC=C(C=N1)C(=O)O | C10H7NO2S
